US09278996B2
A solution of (R)-t-butyl(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)carbamate (5.0 g, 21.5 mmol) in 50 mL of tetrahydrofuran was cooled to −20° C. 4-Methoxyphenylmagnesium bromide was prepared by stirring magnesium (2.1 g, 86.1 mmol), 4-methoxybromobenzene (16.1 g, 86.1 mmol), and a catalytically effective amount of iodide in 100 mL of tetrahydrofuran, and dropwise added to the solution. A reaction was conducted at 20˜25° C. for 16 hrs while stirring.

reactant | (R)-t-butyl(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)carbamate | 21.5 mmol, 5.0 g | C(C)(C)(C)OC(N[C@@H](C(=O)N(C)OC)C)=O | C10H20N2O4
reactant | magnesium | 86.1 mmol, 2.1 g | [Mg] | Mg
reactant | 4-methoxybromobenzene | 86.1 mmol, 16.1 g | COC1=CC=C(C=C1)Br | C7H7BrO
reactant | iodide | [I-]
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-Methoxyphenylmagnesium bromide | COC1=CC=C(C=C1)[Mg]Br | InChI=1S/C7H7O.BrH.Mg/c1-8-7-5-3-2-4-6-7;;/h3-6H,1H3;1H;/q;;+1/p-1
